US07795437B2
Cyclobutanecarboxylic acid trans(4-{2-[4-(2,4,6-trifluoro-phenoxy)-piperidin-1-yl]-ethyl}-cyclohexyl)-amide
According to the synthesis of example 19 the title compound was prepared from Trans(4-{2-[4-(2,4,6-trifluoro-phenoxy)-piperidin-1-yl]-ethyl}-cyclohexyl)-amine and Cyclobutanecarboxylic acid. Preparative HPLC on reversed phase eluting with acetonitrile/water yielded the title compound. MS (m/e): 439.0 (M+H+).

reactant | Trans(4-{2-[4-(2,4,6-trifluoro-phenoxy)-piperidin-1-yl]-ethyl}-cyclohexyl)-amine | FC1=C(OC2CCN(CC2)CC[C@@H]2CC[C@H](CC2)N)C(=CC(=C1)F)F | C19H27F3N2O
reactant | Cyclobutanecarboxylic acid | C1(CCC1)C(=O)O | C5H8O2
product | Cyclobutanecarboxylic acid trans(4-{2-[4-(2,4,6-trifluoro-phenoxy)-piperidin-1-yl]-ethyl}-cyclohexyl)-amide | FC1=C(OC2CCN(CC2)CC[C@@H]2CC[C@H](CC2)NC(=O)C2CCC2)C(=CC(=C1)F)F | C24H33F3N2O2
